US06127386
162b. 3-(2-(S)-Azetidinylmethoxy)-5-ethenylpyridine dihydrochloride
To a solution of 5-ethenyl-3-(2-(S)-pyrrolidinylmethoxy)pyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 88-90° C. 1H NMR (D2O) δ 2.64-2.78 (m, 2H), 4.04-4.22 (m, 2H), 4.50 (d, 1H, J=4.0 Hz), 4.80 (m, 1H), 4.96 (m, 1H), 5.58 (dd, 1H, J=11.0 Hz), 6.04 (d, 1H, J=18.0 Hz), 6.83 (dd, 1H, J=11.0, 18.0 Hz), 7.85 (t, 1H, J=2.0 Hz), 8.31 (br s, 1H), 8.36 (br s, 1H); MS (CI/NH3) m/z 191 (M+H)+. Anal. Calcd for C11H14N2O.1.8 HCl: C, 51.64; H, 6.22; N, 10.95. Found: C, 51.59; H, 5.92; N, 10.75. [α]25D +2.58 (c 0.62, MeOH).

reactant | 5-ethenyl-3-(2-(S)-pyrrolidinylmethoxy)pyridine | C(=C)C=1C=C(C=NC1)OC[C@H]1NCCC1 | C12H16N2O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 3-(2-(S)-Azetidinylmethoxy)-5-ethenylpyridine dihydrochloride | Cl.Cl.N1[C@@H](CC1)COC=1C=NC=C(C1)C=C | InChI=1S/C11H14N2O.2ClH/c1-2-9-5-11(7-12-6-9)14-8-10-3-4-13-10;;/h2,5-7,10,13H,1,3-4,8H2;2*1H/t10-;;/m0../s1
